US04686230
(c) (±)-1-[4-methoxy-2-pyridyl]-ethyl acetate
171 g of 2-ethyl-4-methoxy-pyridine N-oxide are added dropwise within 3 h to 312 ml of acetic anhydride heated to 90° C., in such a way that the internal temperature does not exceed 115° C. The mixture is then left to stand for a further 2.5 h at 100° C., and excess acetic anhydride is stripped off. Distillation of the residue gives 171 g (78%) of the title compound of b.p. 100° C./1 Pa.

reactant | 2-ethyl-4-methoxy-pyridine N-oxide | 171 g | C(C)C1=[N+](C=CC(=C1)OC)[O-] | C8H11NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | (±)-1-[4-methoxy-2-pyridyl]-ethyl acetate | 171 g, 78% | C(C)(=O)OC(C)C1=NC=CC(=C1)OC | C10H13NO3
